US05674886
0.23 Gram of 4-[(4-trifluoromethylphenyl)-amino]-4H-1,2,4-triazole, 0.28 g of 4-bromobenzyl bromide and 0.17 g of anhydrous potassium carbonate were added to 5 ml of acetonitrile and the mixture was stirred for 3 hours at room temperature. The solvent was removed by distillation and water was added to the residue, which was then extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography to give crude crystals from the chloroform eluate. The crude crystals were recrystallized from a mixed solvent of ethyl acetate/ether to give 0.22 g of 4-[N-(4-bromobenzyl)-N-(4-trifluoromethylphenyl)amino]-4H-1,2,4-triazole.

reactant | 4-[(4-trifluoromethylphenyl)-amino]-4H-1,2,4-triazole | FC(C1=CC=C(C=C1)NN1C=NN=C1)(F)F | C9H7F3N4
reactant | 4-bromobenzyl bromide | 0.28 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-[N-(4-bromobenzyl)-N-(4-trifluoromethylphenyl)amino]-4H-1,2,4-triazole | 0.22 g | BrC1=CC=C(CN(C2=CC=C(C=C2)C(F)(F)F)N2C=NN=C2)C=C1 | C16H12BrF3N4
